US08232265B2
Hexadecylpyridinium Sulfathiazole
Hexadecylpyridinium chloride (0.003 mol) was dissolved in 100 mL of distilled water by gentle stirring and heating. Sulfathiazole sodium (0.003 mol) was dissolved in 60 mL of distilled water by gentle stirring and heating. The two solutions were combined and the reaction mixture was stirred at room temperature for 1 h. A rotary evaporator was used to remove the distilled water and produced the ionic liquid and NaCl salt. Benzene was used to dissolve the ionic liquid while the NaCl salt precipitated. The NaCl salt was filtered from the reaction solution. A rotary evaporator was used to remove the benzene and a yellow solid was obtained in a 77.22% yield. 1H NMR (DMSO) was obtained. Melting point (hot plate apparatus)=40-50° C. The hexadecylpyridinium ion is known to have antibacterial properties and the sulfathiazole is known for the treatment of gonorrhea and other bacterial infections.

reactant | Benzene | C1=CC=CC=C1 | C6H6
reactant | NaCl | [Na+].[Cl-]
reactant | hexadecylpyridinium | C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1
reactant | sulfathiazole | C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | C9H9N3O2S2
solvent | DMSO | CS(=O)C | C2H6OS
product | Hexadecylpyridinium Sulfathiazole | C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1.C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | InChI=1S/C21H38N.C9H9N3O2S2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-19-22-20-17-15-18-21-22;10-7-1-3-8(4-2-7)16(13,14)12-9-11-5-6-15-9/h15,17-18,20-21H,2-14,16,19H2,1H3;1-6H,10H2,(H,11,12)/q+1;
